US06809097B1
A solution of 6-methoxy-7-(3-morpholinopropoxy)-1,4-dihydroquinolin-4-one (200 mg, 0.63 mmol) in thionyl chloride (10 ml) containing DMF (3 drops) was heated at reflux for 1 hour. After removal of the volatiles by evaporation, the residue was azeotroped with toluene, triturated with ether, collected by filtration, washed with ether and dried under vacuum to give 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline hydrochloride (240 mg, 93%).

reactant | 6-methoxy-7-(3-morpholinopropoxy)-1,4-dihydroquinolin-4-one | 0.63 mmol, 200 mg | COC=1C=C2C(C=CNC2=CC1OCCCN1CCOCC1)=O | C17H22N2O4
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | DMF | 3 drops | CN(C)C=O | C3H7NO
product | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinoline hydrochloride | 240 mg, 93% | Cl.ClC1=CC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | InChI=1S/C17H21ClN2O3.ClH/c1-21-16-11-13-14(18)3-4-19-15(13)12-17(16)23-8-2-5-20-6-9-22-10-7-20;/h3-4,11-12H,2,5-10H2,1H3;1H
